US09290451B2
(S)-5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(3,3-dimethyl-1-(methylamino)-1-oxobutan-2-yl)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and (2S)-2-amino-N,3,3-trimethyl-butanamide, (CAN 89226-12-0) as starting materials, LC-MS (UV peak area/ESI) 96%, 360.2272 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | (2S)-2-amino-N,3,3-trimethyl-butanamide | N[C@H](C(=O)NC)C(C)(C)C | C7H16N2O
product | (S)-5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(3,3-dimethyl-1-(methylamino)-1-oxobutan-2-yl)picolinamide | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)N[C@H](C(=O)NC)C(C)(C)C | C20H29N3O3
